US06897231B2
N-[4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL]-2-(DIMETHYLAMINO)ACETAMIDE
The title compound was prepared as described in Example 379, using 4-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.304 g, 0.50 mmol) in methylene chloride (3 mL) was added N,N-dimethylglycine hydrochloride (0.137 g, 0.98 mmol), 1-hydroxybenzotriazole (0.081 g, 0.60 mmol), and 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.115 g, 0.60 mmol). The final crude product was purified by preparative HPLC (10-70% acetonitrile in H2O, 20 min.) (0.029 g, 16% yield): 1H NMR (DMSO-d6) δ 14.3 (br s, 1H), 13.38 (br s, 1H), 9.91 (s, 1H), 8.69 (s, 1H), 8.08 (d, 1H), 7.95 (d, 2H), 7.87 (d, 2H), 7.68 (d, 1H), 3.12 (s, 2H), 2.30 (s, 6H); ES-MS (m/z) 362 [M+1]+.

reactant | 4-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.50 mmol, 0.304 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)N | C39H34N6O
reactant | N,N-dimethylglycine hydrochloride | 0.98 mmol, 0.137 g | Cl.CN(CC(=O)O)C
reactant | 1-hydroxybenzotriazole | 0.60 mmol, 0.081 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.60 mmol, 0.115 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(5-(1H-1,2,4-TRIAZOL-3-YL)(1H-INDAZOL-3-YL))PHENYL]-2-(DIMETHYLAMINO)ACETAMIDE | 16% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)NC(CN(C)C)=O | C19H19N7O
